### PR TITLE
tentative proof of a variant of bigmaxr_mem

### PR DESCRIPTION
**Pull request by affeldt-aist**
this includes a formulation of arg_max for R that mimics the one from MathComp

### CODE REVIEW

File: hierarchy.v [hunk 1]
```diff
@@ -993,6 +993,175 @@ Arguments bigminr_ler_cond {R I P F}.
...
+Lemma arg_rmaxP : maximum_spec_r arg_rmax.
+Proof. rewrite /arg_rmax; by case: (arg_maxordP i0 exP). Qed.
+
+End RealExtrema.
+
+Notation "[ 'arg' 'maxr_' ( i > i0 | P ) F ]" :=
+     (arg_rmax i0 (fun i => P%B) (fun i => F))
+  (at level 0, i, i0 at level 10,
+   format "[ 'arg'  'maxr_' ( i  >  i0  |  P )  F ]").
+
```
Comment (drouhling) [inline hierarchy.v]: That's a lot of code duplication w.r.t. mathcomp but you could insert here the other notations on `arg_max`.

Also, it would be nice to have everything both for `max` and `min`. Most of the work is actually done: only `arg_minr`, `arg_minrP`, `bigminr_eq_arg` and `bigminr_mem` are missing.

File: hierarchy.v [hunk 2]
```diff
@@ -993,6 +993,175 @@ Arguments bigminr_ler_cond {R I P F}.
...
+Lemma bigmaxr_eq_arg (I : finType) i0 (P : pred I) (F : I -> R) x :
+  P i0 -> (forall i, P i -> x <= F i) ->
+  \big[maxr/x]_(i | P i) F i = F [arg maxr_(i > i0 | P i) F i].
+Proof.
+move=> Pi0; case: arg_rmaxP; [by exists i0 | move=> //= i Pi Hx maxFi].
+apply/eqP; rewrite eqr_le ler_bigmaxr_cond // andbT.
+apply/bigmaxr_lerP; split => //; exact: maxFi.
+Qed.
+
+Lemma bigmaxr_mem (I : finType) i0 (P : pred I) (F : I -> R) x :
```
Comment (drouhling) [inline hierarchy.v]: Is there any reason not to use `sig`, as in `eq_bigmax_cond` and `eq_bigmax`?

File: hierarchy.v (hunk 1 above)
Comment (CohenCyril) [reply hierarchy.v]: Did you see this https://github.com/math-comp/math-comp/pull/201 ?

Comment (affeldt-aist) [reply hierarchy.v]: No. In fact, I recycled the arg_maxr things from infotheo.

**Comment by affeldt-aist** [comment]
The lemmas proposed by this PR have been implemented by PR #194 that has been merged.
